US05098828
Preparation of D-luciferin-O-phosphate
50 mg (180 μmole) D-luciferin is dissolved in 2 ml water and mixed with 350 mg (8.75 mmole) magnesium oxide. To the cooled suspension, slowly and drop by drop a solution of 92 mg (600 μmole) phosphoroxychloride in 1 ml carbon tetrachloride is added. It is then allowed to stand for 30 min at room temperature, filtered and neutralized with acetic acid. After concentration, it is purified with HPLC as in Example 3. The yield is 29% of theoretical.

reactant | D-luciferin | 180 μmole, 50 mg | C1[C@@H](N/C(=C/2\N=C3C=CC(=O)C=C3S2)/S1)C(=O)O | C11H8N2O3S2
reactant | magnesium oxide | 8.75 mmole, 350 mg | [O-2].[Mg+2]
reactant | phosphoroxychloride | 600 μmole, 92 mg | O=P(Cl)(Cl)Cl | Cl3OP
reactant | water | 2 ml | O | H2O
solvent | carbon tetrachloride | 1 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | D-luciferin O-phosphate | yield is 29% | C1[C@@H](N/C(=C/2\N=C3C=CC(=O)C=C3S2)/S1)C(=O)O.[O-]P(=O)([O-])[O-] | InChI=1S/C11H8N2O3S2.H3O4P/c14-5-1-2-6-8(3-5)18-10(12-6)9-13-7(4-17-9)11(15)16;1-5(2,3)4/h1-3,7,13H,4H2,(H,15,16);(H3,1,2,3,4)/p-3/b10-9-;/t7-;/m1./s1
